US04531013
reacting said 2,6-di(trifluoroacetamido)-1,4,5,8-tetranitronaphthalene with methanol and dry hydrogen chloride to form 2,6-diamino-1,4,5,8-tetranitronaphthalene.

reactant | 2,6-di(trifluoroacetamido)-1,4,5,8-tetranitronaphthalene | FC(C(=O)NC1=C(C2=C(C=C(C(=C2C(=C1)[N+](=O)[O-])[N+](=O)[O-])NC(C(F)(F)F)=O)[N+](=O)[O-])[N+](=O)[O-])(F)F | C14H4F6N6O10
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | 2,6-diamino-1,4,5,8-tetranitronaphthalene | NC1=C(C2=C(C=C(C(=C2C(=C1)[N+](=O)[O-])[N+](=O)[O-])N)[N+](=O)[O-])[N+](=O)[O-] | C10H6N6O8
